US07214798B2
10.4. 2-Amino-2-oxoethyl 2-[1-(6-chloro-2-quinolyl)-4-piperidyl]ethylcarbamate
The process is performed according to the procedure described in Example 3 (step 3.4). Starting with 1.28 g (3.42 mmol) of 3-{2-[1-(6-chloro-2-quinolyl)-4-piperidyl]ethyl}-1,3-oxazolidine-2,4-dione, obtained in step 10.3, and 22.10 ml (154.08 mmol) of a solution (7M) of aqueous ammonia in methanol, and after crystallization from ethanol, 0.64 g of pure product is obtained in the form of a white solid.

reactant | 3-{2-[1-(6-chloro-2-quinolyl)-4-piperidyl]ethyl}-1,3-oxazolidine-2,4-dione | 3.42 mmol, 1.28 g | ClC=1C=C2C=CC(=NC2=CC1)N1CCC(CC1)CCN1C(OCC1=O)=O | C19H20ClN3O3
reactant | ammonia | N | H3N
solvent | methanol | CO | CH4O
product | 2-Amino-2-oxoethyl 2-[1-(6-chloro-2-quinolyl)-4-piperidyl]ethylcarbamate | 154.08 mmol, 7M, 22.10 ml | ClC=1C=C2C=CC(=NC2=CC1)N1CCC(CC1)CCNC(OCC(=O)N)=O | C19H23ClN4O3
